US08044213B2
To a mixture of 2.44 g (7.14 mmole) of 2-azido-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester and 45 mL of tetrahydrofuran was added, 3.01 g (71.5 mmole) of lithium hydroxide monohydrate in 33 mL of water. The mixture was stirred at room temperature for 17 hours and then diluted with 300 mL of diethyl ether. The ether layer was extracted three times with 100 mL of water. The combined aqueous phases were acidified by the addition of 1M hydrochloric acid and extracted three times with 100 mL of ethyl acetate. The combined ethyl acetate layers were washed with 50 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 1.76 g of 2-azido-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid as a light yellow solid.

reactant | 2-azido-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | 7.14 mmole, 2.44 g | C(C)OC(=O)C1=C(N=C(S1)N=[N+]=[N-])C1=CC=C(C=C1)C(F)(F)F | C13H9F3N4O2S
reactant | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 71.5 mmole, 3.01 g | O.[OH-].[Li+]
solvent | water | 33 mL | O | H2O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 2-azido-4-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid | 1.76 g | N(=[N+]=[N-])C=1SC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C11H5F3N4O2S
